US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and 1,4-oxazepane gave 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-oxazepane as a yellow oil (72 mg, 52%). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 3.94 (t, J=5.6 Hz, 2H), 3.88-3.84 (m, 2H), 3.80 (s, 3H), 3.40-3.35 (m, 4H), 2.07-1.99 (m, 2H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 1,4-oxazepane | O1CCNCCC1 | C5H11NO
product | 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,4-oxazepane | 72 mg, 52% | CN1N=CC(=C1N1CCOCCC1)[N+](=O)[O-] | C9H14N4O3
